US07605172B2
Step 3: 2-{[1-bromo-6-(2-phenyl-1,3-thiazol-4-yl)-2-naphthyl]oxy}-3-phenylpropanoic acid.
A mixture of methyl 2-{[1-bromo-6-(2-phenyl-1,3-thiazol-4-yl)-2-naphthyl]oxy}-3-phenylpropanoate (197 mg, 0.363 mmol), prepared in the previous step, and 1 N NaOH (544 μL, 0.544 mmol) in 20 mL of THF plus 20 mL of methanol plus 10 mL of water was refluxed under nitrogen for 3 h. The reaction was filtered, acidified by the addition of 2 mL of 1 N HCl and then concentrated under reduced pressure. The solid was collected by filtration, rinsed with water and dried under reduced pressure to give the title compound (178 mg, 92%) as a white solid, mp 220-224° C. Elemental Analysis for C28H20BrNO3S+0.18H2O Calc'd: C, 63.02; H, 3.85; N, 2.62. Found: C, 63.13; H, 3.70; N, 2.54.

reactant | methyl 2-{[1-bromo-6-(2-phenyl-1,3-thiazol-4-yl)-2-naphthyl]oxy}-3-phenylpropanoate | 0.363 mmol, 197 mg | BrC1=C(C=CC2=CC(=CC=C12)C=1N=C(SC1)C1=CC=CC=C1)OC(C(=O)OC)CC1=CC=CC=C1 | C29H22BrNO3S
reactant | NaOH | 0.544 mmol, 1 N, 544 μL | [OH-].[Na+]
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | methanol | 20 mL | CO | CH4O
solvent | water | 10 mL | O | H2O
product | 2-{[1-bromo-6-(2-phenyl-1,3-thiazol-4-yl)-2-naphthyl]oxy}-3-phenylpropanoic acid | 178 mg, 92% | BrC1=C(C=CC2=CC(=CC=C12)C=1N=C(SC1)C1=CC=CC=C1)OC(C(=O)O)CC1=CC=CC=C1 | C28H20BrNO3S
